US06432947B1
To 2-[(3-aminopropyl)[2-(1H-imidazol-1-yl)-6-methyl-4-pyrimidinyl]amino]-N-[2-(1,3-benzodioxol-5-yl)ethyl]acetamide (0.3 g, 0.7 mmol) (a compound of formula (Yc6)) dissolved in pyridine (5 mL) was added acetic anhydride (0.10 mL, 1.0 mmol). After stirring for 16 hours, the reaction was partitioned with ethyl acetate and water. The organic layer was separated, washed with water and brine, dried (Na2SO4), and the solvent was removed in vacuo. Chromatography on silica with CH2Cl2 gave 0.14 g of 2-[[3-(acetylamino)propyl][2-(1H-imidazol-1-yl)-6-methyl-4-pyrimidinyl]amino]-N-[2-(1,3-benzodioxol-5-yl)ethyl]acetamide, a compound of formula (Yc7); NMR (DMSO-d6) 8.4 (s, 1), 8.05 (t, 2), 7.85 (t, 1), 7.8 (s, 1), 7.05 (s, 1), 6.7 (m, 2), 6.6 (m, 1), 6.2 (s, 1), 5.9 (s, 2), 4.1 (m, 2), 3-3.6 (m, 6), 2.6 (m, 2), 2.3 (m, 3), 1.8 (s, 3), 1.65 (m, 2) ppm.

reactant | 2-[(3-aminopropyl)[2-(1H-imidazol-1-yl)-6-methyl-4-pyrimidinyl]amino]-N-[2-(1,3-benzodioxol-5-yl)ethyl]acetamide | 0.7 mmol, 0.3 g | NCCCN(CC(=O)NCCC1=CC2=C(OCO2)C=C1)C1=NC(=NC(=C1)C)N1C=NC=C1 | C22H27N7O3
reactant | acetic anhydride | 1.0 mmol, 0.10 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2-[[3-(acetylamino)propyl][2-(1H-imidazol-1-yl)-6-methyl-4-pyrimidinyl]amino]-N-[2-(1,3-benzodioxol-5-yl)ethyl]acetamide | 0.14 g | C(C)(=O)NCCCN(CC(=O)NCCC1=CC2=C(OCO2)C=C1)C1=NC(=NC(=C1)C)N1C=NC=C1 | C24H29N7O4
